Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
___: Laparoscopic exploration and cholecystectomy

 
History of Present Illness:
Mrs. ___ is a ___ year-old female with history of 
laparoscopic Roux-en-Y gastric bypass done at ___ 
___ in ___, presented to ED four days prior for 
biliary colic symptoms. Sent home with f/u in ___ clinic.
However pain continued to get worse and patient was unable to 
tolerate PO intake. Denies fevers or chills. Presented to ED for 
further evaluation. On presentation, the patient complained of 
epigastric pain and RUQ pain that radiated to the back and the 
shoulder blades. It is similar to the pain she had on original 
presentation except it was worse in intensity. PO intake made 
the pain worse. She denied recent NSAID use, smoking, or alcohol 
intake. Concomitantly, an episode of non-bloody diarrhea.

 
Past Medical History:
Past medical history: 
Polycystic ovarian syndrome and anxiety

Past surgical history:
Laparoscopic Roux-en-Y gastric bypass at ___ ___ 
laparoscopic appendectomy (___)

Allergies: NSAIDs

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Upon discharge, 
Constitutional: well-appearing, in no acute distress
VS: 98.2 82 130/76 18 98% RA
Cardiopulmonary: CTAB, in no respiratory distress. RRR, normal 
S1 and S2 without murmurs, rubs or gallops.
Abdomen: Soft, appropriately tender, mildly distended. Wound 
dressings look intact with scant blood staining. 
Extremities: atraumatic, no clubbing, cyanosis or edema
Neurologic: intact. No sensory or motor abnormalities.

 
Pertinent Results:
___ 03:15PM BLOOD WBC-7.7 RBC-4.11* Hgb-12.5 Hct-37.3 
MCV-91 MCH-30.5 MCHC-33.6 RDW-12.0 Plt ___
___ 03:15PM BLOOD Neuts-68.0 ___ Monos-5.3 Eos-2.1 
Baso-0.7
___ 03:15PM BLOOD Plt ___
___ 03:15PM BLOOD Glucose-86 UreaN-11 Creat-0.7 Na-139 
K-4.3 Cl-104 HCO3-23 AnGap-16
___ 03:15PM BLOOD ALT-20 AST-17 AlkPhos-75 TotBili-0.2
___ 03:15PM BLOOD Lipase-21
___ 03:15PM BLOOD Albumin-3.9
___ 07:55PM BLOOD ALT-45* AST-55* AlkPhos-95 TotBili-0.6
___ 07:55PM BLOOD Folate-19.8
___ 08:30AM BLOOD Glucose-95 UreaN-4* Creat-0.7 Na-137 
K-3.7 Cl-101 HCO3-27 AnGap-13
___ 08:30AM BLOOD LD(LDH)-157 Amylase-49
___ 08:30AM BLOOD Lipase-20
___ 08:30AM BLOOD Albumin-3.6 Calcium-8.7 Phos-3.4 Mg-1.8 
Iron-26* Cholest-138
___ 08:30AM BLOOD calTIBC-328 VitB12-893 Folate-18.6 
Ferritn-71 TRF-252
___ 08:30AM BLOOD Triglyc-90 HDL-55 CHOL/HD-2.5 LDLcalc-65

___ LIVER OR GALLBLADDER US
1.  Numerous stones within the distended gallbladder without 
specific 
sonographic evidence for cholecystitis.  If clinical concern for 
acute 
cholecystitis remains high, a HIDA scan may be useful. 
2.  Dilated common bile duct measuring up to 12 mm without 
evidence of 
choledocholithiasis.  An MRCP may be obtained for further 
evaluation.   
  
___  CT ABD & PELVIS WITH CONTRAST

1. S/P RY gastric bypass surgery. Oral contrast within the 
excluded stomach - this finding is consistent with a 
gastrogastric fistula.  
  
2. Intussusception at the jejunojejunal anastomosis.  This 
finding is 
frequently seen as a transient phenomenon and is not causing any 
bowel 
obstruction.  
  
3. Unusual areas of soft tissue attenuation in the fat adjacent 
to the right side of the uterus and more superiorly in the 
suprapubic region. The primary considerations are endometriosis 
or fat infarction (more likely given the fat attenuation). MRI 
pelvis may be of benefit for further evaluation. 
  
4. Mildly dilated common hepatic duct with normal tapering of 
the common bile duct at the ampulla. No intrahepatic duct 
dilatation. MRCP is recommended for further evaluation. 

 
Brief Hospital Course:
The patient was admitted for symptomatic cholelithiasis. She was 
evaluated by anaesthesia and taken to the operating room for 
laparoscopic cholecystectomy. There were no adverse events in 
the operating room (please see the operative note for details). 
Patient was extubated, taken to the PACU until stable, then 
transferred to the ward for observation. 

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with a IV morphine 
and Tylenol, and then transitioned to oral Roxicet once 
tolerating a diet. On POD#1, patient developed neck spasms which 
were well-controlled after administering her usual dose of 
cyclobenzaprine. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.  
GI/GU/FEN: The patient was initially on a clear liquids diet 
that was later advanced sequentially to a regular, which was 
well tolerated. Patient's intake and output were closely 
monitored.  JP output remained serosanguinous throughout 
admission; the drain was removed prior to discharge.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
Heme: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
BUPROPION HBR [APLENZIN] - Aplenzin 348 mg tablet,extended 
release. tablet extended release 24 hr(s) by mouth  -  
(Prescribed by Other Provider)
MUPIROCIN - mupirocin 2 % topical ointment. daily to wound edge
OXYCODONE-ACETAMINOPHEN [ENDOCET] - Endocet 5 mg-325 mg tablet. 
1 tablet(s) by mouth at bedtime as needed for Post op pain No 
drinking/no driving. Sedating. Constipating.

 
Discharge Medications:
1. BuPROPion 75 mg PO DAILY 
2. Cyclobenzaprine 10 mg PO TID:PRN pain 
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
daily Disp #*60 Capsule Refills:*0
4. OxycoDONE-Acetaminophen Elixir ___ mL PO Q4H:PRN pain 
RX *oxycodone-acetaminophen [Percocet] 5 mg-325 mg ___ tablets 
by mouth every ___ hours Disp #*40 Tablet Refills:*0
5. Senna 1 TAB PO HS 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth once daily at 
bedtime Disp #*30 Capsule Refills:*0
6. Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule,delayed ___ by 
mouth once daily Disp #*30 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Cholelithiasis s/p laparoscopic cholecystectomy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mrs. ___,

___ was a pleasure taking care of you here at ___ 
___. You were admitted to the hospital 
after undergoing a laparoscopic cholecystectomy. Your surgery 
and hospital course were uneventful, so we now feel comfortable 
sending you home provided you follow these recommendations.

Please call your surgeon or return to the emergency department 
if you develop a fever greater than 101.5, chest pain, shortness 
of breath, severe abdominal pain, pain unrelieved by your pain 
medication, severe nausea or vomiting, severe abdominal 
bloating, inability to eat or drink, foul smelling or colorful 
drainage from your incisions, redness or swelling around your 
incisions, or any other symptoms which are concerning to you.

Resume your home medications.
You will be starting some new medications:
1.  You are being discharged on medications to treat the pain 
from your operation. These medications will make you drowsy and 
impair your ability to drive a motor vehicle or operate 
machinery safely. You MUST refrain from such activities while 
taking these medications.
2. You should take a chewable complete multivitamin with 
minerals. No gummy vitamins.
3. You should take a stool softener, Colace, twice daily for 
constipation as needed, or until you resume a normal bowel 
pattern.
4. You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs) Examples are Ibuprofen, Motrin, Aleve, Nuprin and 
Naproxen. These agents will cause bleeding and ulcers in your 
digestive system.

Activity: No heavy lifting of items ___ pounds for 6 weeks. 
You may resume moderate exercise at your discretion, no 
abdominal exercises.

Wound Care: You may shower, no tub baths or swimming. If there 
is clear drainage from your incisions, cover with clean, dry 
gauze. Your steri-strips will fall off on their own. Please 
remove any remaining strips ___ days after surgery. Please call 
the doctor if you have increased pain, swelling, redness, or 
drainage from the incision sites. 
 
Followup Instructions:
___